US05990326
Scheme D shows a method of preparing an aldehyde which may be used in Scheme A. 1-Methoxy-1E-buten-3-yne is reacted with tributylstannane in the presence of catylytic 2,2'-azobisisobutyronitrile (AIBN) to give tributyl(4-methoxy-1E,3E-butadienyl)stannane which is then reacted with butyllithium followed by coupling with an appropriate aldehyde (XVIII). The alcohol-formed is reacted with toluene sulfonic acid (TSOH) to give the desired aldehyde (V).

reactant | 1-Methoxy-1E-buten-3-yne | CO\C=C\C#C | C5H6O
reactant | tributylstannane | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2'-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | tributyl(4-methoxy-1E,3E-butadienyl)stannane | C(CCC)[Sn](\C=C\C=C\OC)(CCCC)CCCC | InChI=1S/C5H7O.3C4H9.Sn/c1-3-4-5-6-2;3*1-3-4-2;/h1,3-5H,2H3;3*1,3-4H2,2H3;/b3-1?,5-4+;;;;
